US05283251
To a mixture of nitric acid (d=1.42:20 ml) and sulfuric acid (d=1.84:20 ml) was added 2,3-dimethyl benzoic acid (6.0 g) at 0° C. After stirring for 3 hours, the mixture was poured into ice water (300 ml). The organic layer was extracted with ethyl acetate (100 ml) and washed with water (100 ml×3). The solution was dried over magnesium sulfate and the solvent was removed in vacuo. The residue was purified by a column of silica gel to give a yellow solid of 2,3-dimethyl-5-nitrobenzoic acid (1.80 g).

reactant | nitric acid | 20 ml | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2,3-dimethyl benzoic acid | 6.0 g | CC1=C(C(=O)O)C=CC=C1C | C9H10O2
product | 2,3-dimethyl-5-nitrobenzoic acid | 1.80 g | CC1=C(C(=O)O)C=C(C=C1C)[N+](=O)[O-] | C9H9NO4
